US05077447
A mixture of decanoic acid (100 g, 0.581 mol), acetic anhydride, dichlorobis(triphenylphosphine)palladium (0.0407 g, 5.81×10-5 mol), and triphenylphosphine (0.761 g, 0.00290 mol) was heated under a slow stream of nitrogen using an oil bath maintained at 255° C. As product distilled from the reactor, it was continuously replaced with a mixture of decanoic acid and acetic anhydride, identical in ratio to that of the initial charge, in a rate that maintained the initial level of the reactor contents throughout the course of the entire reaction. The distillate products from several runs which contained varied decanoic acid: acetic anhydride ratios were examined by GC analysis (using n-decane as internal standard) and the catalyst efficiency and product α-olefin selectivity calculated. For example, using of a 1:1.5 ratio of decanoic acid:acetic anhydride throughout the course of an entire reaction produced 1-nonene with a catalyst TON of 14,800 and an α-olefin selectivity of 97.4%. The data for this series of reactions appears in Table 4.

reactant | decanoic acid | 0.581 mol, 100 g | C(CCCCCCCCC)(=O)O | C10H20O2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | triphenylphosphine | 0.00290 mol, 0.761 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | n-decane | CCCCCCCCCC | C10H22
catalyst | dichlorobis(triphenylphosphine)palladium | 5.81×10-5 mol, 0.0407 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-nonene | C=CCCCCCCC | C9H18
